US06083959
To a stirred solution of 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (80 mg) and triethylamine (22.4 mg) in dichloromethane (1 ml) was dropwise added isobutyryl chloride (19.9 mg) under ice-cooling, and the mixture was stirred for 15 minutes at the same temperature and for 2 hours at ambient temperature. The mixture was washed with saturated sodium bicarbonate solution, water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (chloroform:methanol, 10:1, v/v) to give 8-[3-[N-(isobutyrylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-4-(imidazol-1-yl)-2-methylquinoline (69 mg) as colorless amorphous.

reactant | 8-[3-(N-glycyl-N-methylamino)-2,6-dichlorobenzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 80 mg | NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC1)Cl)Cl | C23H21Cl2N5O2
reactant | triethylamine | 22.4 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyryl chloride | 19.9 mg | C(C(C)C)(=O)Cl | C4H7ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 8-[3-[N-(isobutyrylglycyl)-N-methylamino]-2,6-dichlorobenzyloxy]-4-(imidazol-1-yl)-2-methylquinoline | 69 mg | C(C(C)C)(=O)NCC(=O)N(C)C=1C(=C(COC=2C=CC=C3C(=CC(=NC23)C)N2C=NC=C2)C(=CC1)Cl)Cl | C27H27Cl2N5O3
